US07732461B2
(d) Racemic 4-{[(3S,4R)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A solution of racemic 1,1-dimethylethyl{(3S,4R)-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}carbamate (15.57 g) in dichloromethane (170 ml) was cooled in ice-water, treated with trifluoracetic acid (137 ml), stirred 1 hour at room temperature and evaporated to dryness. After keeping under high vacuum for 1 hour, the crude material was dissolved in methanol and run through a column of Amberlyst A21 basic resin (500 ml) (Sigma-Aldrich Co.), eluting with methanol. The solution containing the product was evaporated and the residue chromatographed on silica gel, eluting with dichloromethane/methanol/0.88 ammonia (9:1:0.1) to give product (8.96 g, 76%).

reactant | racemic 1,1-dimethylethyl{(3S,4R)-1-[(3-fluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-3-hydroxy-4-piperidinyl}carbamate | 15.57 g | CC(C)(C)N(C([O-])=O)[C@H]1[C@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)F)O
reactant | trifluoracetic acid | 137 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | Racemic 4-{[(3S,4R)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-fluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 8.96 g, 76% | N[C@H]1[C@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)F)O | C16H19FN4O2
